US07514448B2
2-Bromo-1-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone
To a solution of 4-fluoro-1H-pyrrolo[2,3-b]pyridine (2.00 g, 0.0147 mol) (Org. Lett., 2003, 5, 5023-5025) in dichloromethane was added aluminum chloride (3.92 g, 0.0294 mol) in portions, the mixture was stirred at RT for 30 min, then bromoacetyl bromide (4.45 g, 0.022 mol) was added dropwise. The reaction mixture was stirred at 50° C. for 1 h, when TLC indicated no starting material. To the reaction mixture was added 150 mL water, and the resulting suspension was heated at 100° C. for 1 h, then filtered to afford the desired product, 90% pure. H NMR, DMSO-d6: 4.72(s, 2H), 7.12(m, 1H), 8.36(m, 1H), 8.67(s, 1H).

reactant | 4-fluoro-1H-pyrrolo[2,3-b]pyridine | 0.0147 mol, 2.00 g | FC1=C2C(=NC=C1)NC=C2 | C7H5FN2
reactant | aluminum chloride | 0.0294 mol, 3.92 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | bromoacetyl bromide | 0.022 mol, 4.45 g | BrCC(=O)Br | C2H2Br2O
reactant | water | 150 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Bromo-1-(4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | BrCC(=O)C1=CNC2=NC=CC(=C21)F | C9H6BrFN2O
